US06552017B1
To a solution of diethyl 5-(2,4-dichlorophenyl)-2-methyl-6b,9,10,10a-tetrahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-3,8(2H,7H)-dicarboxylate (30 mg, 0.06 mmol) in 10 mL of n-BuOH was added KOH (33 mg, 0.6 mmol) and stirred at 120° C. for 16 h. The reaction was allowed to cool to ambient temperature and was diluted with ethyl acetate, washed with water (10 mL). The organic layer was collected and washed with 1N HCl (10 mL) and water (10 mL). This time the aqueous layer was collected and neutralized with saturated aqueous sodium bicarbonate and extracted with EtOAc (2×20 mL). The combined extracts were dried over magnesium sulfate, concentrated to afford 5-(2,4-dichlorophenyl)-2-methyl-2,3,6b,7,8,9,10,10a-octahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline (10 mg, 45%) as a solid. MS [M+H]+374.

reactant | diethyl 5-(2,4-dichlorophenyl)-2-methyl-6b,9,10,10a-tetrahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-3,8(2H,7H)-dicarboxylate | 0.06 mmol, 30 mg | ClC1=C(C=CC(=C1)Cl)C=1C=C2C=3N(CC(N(C3C1)C(=O)OCC)C)C1C2CN(CC1)C(=O)OCC | C26H29Cl2N3O4
reactant | KOH | 0.6 mmol, 33 mg | [OH-].[K+]
solvent | n-BuOH | 10 mL | CCCCO | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(2,4-dichlorophenyl)-2-methyl-2,3,6b,7,8,9,10,10a-octahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline | 10 mg, 45% | ClC1=C(C=CC(=C1)Cl)C=1C=C2C=3N(CC(NC3C1)C)C1C2CNCC1 | C20H21Cl2N3
